US08809352B2
1-[2-(4-Chloro-phenyl)-5,5-dimethyl-cyclohex-1-enylmethyl]-piperidin-4-one
A suspension of the hydrochloride salt of 4-oxopiperidine (273 mg, 2.01 mmol) and DIPEA (351 μL, 2.01 mmol) was stirred in DCE (9.0 mL) at room temperature for 10 minutes. 2-(4-Chlorophenyl)-5,5-dimethylcyclohex-1-enecarbaldehyde (500 mg, 2.01 mmol) was then added, followed by NaBH(OAc)3 (426 mg, 2.01 mmol) and activated molecular sieves (˜1 g). The resulting suspension was stirred at room temperature for 16 hours. The reaction mixture was then filtered through a plug of Celite, rinsing with EtOAc. The filtrate was washed sequentially with saturated aqueous NaHCO3, water, and brine. The organic layer was dried over MgSO4 and concentrated. The crude residue was purified by flash chromatography on silica gel to afford the title compound (262 mg, 40% yield). MS (ESI) m/e (M+H+): 331.88

reactant | 4-oxopiperidine | 2.01 mmol, 273 mg | O=C1CCNCC1 | C5H9NO
reactant | DIPEA | 2.01 mmol, 351 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(4-Chlorophenyl)-5,5-dimethylcyclohex-1-enecarbaldehyde | 2.01 mmol, 500 mg | ClC1=CC=C(C=C1)C1=C(CC(CC1)(C)C)C=O | C15H17ClO
reactant | NaBH(OAc)3 | 2.01 mmol, 426 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCE | 9.0 mL | ClCCCl | C2H4Cl2
product | 1-[2-(4-Chloro-phenyl)-5,5-dimethyl-cyclohex-1-enylmethyl]-piperidin-4-one | 262 mg, 40% yield | ClC1=CC=C(C=C1)C1=C(CC(CC1)(C)C)CN1CCC(CC1)=O | C20H26ClNO
